*-- pdngen: spice deck generated for chip 'chiplet3' PDN
*-- die chiplet3:  W/H: 0.005/0.002


.subckt chiplet3
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_4_1
+nd_pad_port_4_3
+nd_pad_port_5_0
+nd_pad_port_5_2
+nd_pad_port_6_1
+nd_pad_port_6_3
+nd_pad_port_7_0
+nd_pad_port_7_2
+nd_pad_port_8_1
+nd_pad_port_8_3
+nd_pad_port_9_0
+nd_pad_port_9_2
*-- p/g port #: 20/20
+nd_1_0_7600_3000

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_399_1000 nd_1_0_1200_1000 0.016324
rd_1_2_0_0_1 nd_1_0_1200_1000 nd_1_0_2000_1000 0.016324
rd_1_2_0_0_2 nd_1_0_2000_1000 nd_1_0_2800_1000 0.016324
rd_1_2_0_0_3 nd_1_0_2800_1000 nd_1_0_3600_1000 0.016324
rd_1_2_0_0_4 nd_1_0_3600_1000 nd_1_0_4400_1000 0.016324
rd_1_2_0_0_5 nd_1_0_4400_1000 nd_1_0_5200_1000 0.016324
rd_1_2_0_0_6 nd_1_0_5200_1000 nd_1_0_6000_1000 0.016324
rd_1_2_0_0_7 nd_1_0_6000_1000 nd_1_0_6800_1000 0.016324
rd_1_2_0_0_8 nd_1_0_6800_1000 nd_1_0_7600_1000 0.016324
rd_1_2_0_0_9 nd_1_0_7600_1000 nd_1_0_8400_1000 0.016324
rd_1_2_0_0_10 nd_1_0_8400_1000 nd_1_0_9200_1000 0.016324
rd_1_2_0_1_0 nd_1_0_399_3000 nd_1_0_1200_3000 0.016324
rd_1_2_0_1_1 nd_1_0_1200_3000 nd_1_0_2000_3000 0.016324
rd_1_2_0_1_2 nd_1_0_2000_3000 nd_1_0_2800_3000 0.016324
rd_1_2_0_1_3 nd_1_0_2800_3000 nd_1_0_3600_3000 0.016324
rd_1_2_0_1_4 nd_1_0_3600_3000 nd_1_0_4400_3000 0.016324
rd_1_2_0_1_5 nd_1_0_4400_3000 nd_1_0_5200_3000 0.016324
rd_1_2_0_1_6 nd_1_0_5200_3000 nd_1_0_6000_3000 0.016324
rd_1_2_0_1_7 nd_1_0_6000_3000 nd_1_0_6800_3000 0.016324
rd_1_2_0_1_8 nd_1_0_6800_3000 nd_1_0_7600_3000 0.016324
rd_1_2_0_1_9 nd_1_0_7600_3000 nd_1_0_8400_3000 0.016324
rd_1_2_0_1_10 nd_1_0_8400_3000 nd_1_0_9200_3000 0.016324
rd_1_2_0_2_0 nd_1_0_399_5000 nd_1_0_1200_5000 0.016324
rd_1_2_0_2_1 nd_1_0_1200_5000 nd_1_0_2000_5000 0.016324
rd_1_2_0_2_2 nd_1_0_2000_5000 nd_1_0_2800_5000 0.016324
rd_1_2_0_2_3 nd_1_0_2800_5000 nd_1_0_3600_5000 0.016324
rd_1_2_0_2_4 nd_1_0_3600_5000 nd_1_0_4400_5000 0.016324
rd_1_2_0_2_5 nd_1_0_4400_5000 nd_1_0_5200_5000 0.016324
rd_1_2_0_2_6 nd_1_0_5200_5000 nd_1_0_6000_5000 0.016324
rd_1_2_0_2_7 nd_1_0_6000_5000 nd_1_0_6800_5000 0.016324
rd_1_2_0_2_8 nd_1_0_6800_5000 nd_1_0_7600_5000 0.016324
rd_1_2_0_2_9 nd_1_0_7600_5000 nd_1_0_8400_5000 0.016324
rd_1_2_0_2_10 nd_1_0_8400_5000 nd_1_0_9200_5000 0.016324
rd_1_2_0_3_0 nd_1_0_399_7000 nd_1_0_1200_7000 0.016324
rd_1_2_0_3_1 nd_1_0_1200_7000 nd_1_0_2000_7000 0.016324
rd_1_2_0_3_2 nd_1_0_2000_7000 nd_1_0_2800_7000 0.016324
rd_1_2_0_3_3 nd_1_0_2800_7000 nd_1_0_3600_7000 0.016324
rd_1_2_0_3_4 nd_1_0_3600_7000 nd_1_0_4400_7000 0.016324
rd_1_2_0_3_5 nd_1_0_4400_7000 nd_1_0_5200_7000 0.016324
rd_1_2_0_3_6 nd_1_0_5200_7000 nd_1_0_6000_7000 0.016324
rd_1_2_0_3_7 nd_1_0_6000_7000 nd_1_0_6800_7000 0.016324
rd_1_2_0_3_8 nd_1_0_6800_7000 nd_1_0_7600_7000 0.016324
rd_1_2_0_3_9 nd_1_0_7600_7000 nd_1_0_8400_7000 0.016324
rd_1_2_0_3_10 nd_1_0_8400_7000 nd_1_0_9200_7000 0.016324
rd_1_2_0_4_0 nd_1_0_399_9000 nd_1_0_1200_9000 0.016324
rd_1_2_0_4_1 nd_1_0_1200_9000 nd_1_0_2000_9000 0.016324
rd_1_2_0_4_2 nd_1_0_2000_9000 nd_1_0_2800_9000 0.016324
rd_1_2_0_4_3 nd_1_0_2800_9000 nd_1_0_3600_9000 0.016324
rd_1_2_0_4_4 nd_1_0_3600_9000 nd_1_0_4400_9000 0.016324
rd_1_2_0_4_5 nd_1_0_4400_9000 nd_1_0_5200_9000 0.016324
rd_1_2_0_4_6 nd_1_0_5200_9000 nd_1_0_6000_9000 0.016324
rd_1_2_0_4_7 nd_1_0_6000_9000 nd_1_0_6800_9000 0.016324
rd_1_2_0_4_8 nd_1_0_6800_9000 nd_1_0_7600_9000 0.016324
rd_1_2_0_4_9 nd_1_0_7600_9000 nd_1_0_8400_9000 0.016324
rd_1_2_0_4_10 nd_1_0_8400_9000 nd_1_0_9200_9000 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_399_1000 nd_2_0_399_3000 0.016324
rd_2_1_0_0_1 nd_2_0_399_3000 nd_2_0_399_5000 0.016324
rd_2_1_0_0_2 nd_2_0_399_5000 nd_2_0_399_7000 0.016324
rd_2_1_0_0_3 nd_2_0_399_7000 nd_2_0_399_9000 0.016324
rd_2_1_0_1_0 nd_2_0_1200_1000 nd_2_0_1200_3000 0.016324
rd_2_1_0_1_1 nd_2_0_1200_3000 nd_2_0_1200_5000 0.016324
rd_2_1_0_1_2 nd_2_0_1200_5000 nd_2_0_1200_7000 0.016324
rd_2_1_0_1_3 nd_2_0_1200_7000 nd_2_0_1200_9000 0.016324
rd_2_1_0_2_0 nd_2_0_2000_1000 nd_2_0_2000_3000 0.016324
rd_2_1_0_2_1 nd_2_0_2000_3000 nd_2_0_2000_5000 0.016324
rd_2_1_0_2_2 nd_2_0_2000_5000 nd_2_0_2000_7000 0.016324
rd_2_1_0_2_3 nd_2_0_2000_7000 nd_2_0_2000_9000 0.016324
rd_2_1_0_3_0 nd_2_0_2800_1000 nd_2_0_2800_3000 0.016324
rd_2_1_0_3_1 nd_2_0_2800_3000 nd_2_0_2800_5000 0.016324
rd_2_1_0_3_2 nd_2_0_2800_5000 nd_2_0_2800_7000 0.016324
rd_2_1_0_3_3 nd_2_0_2800_7000 nd_2_0_2800_9000 0.016324
rd_2_1_0_4_0 nd_2_0_3600_1000 nd_2_0_3600_3000 0.016324
rd_2_1_0_4_1 nd_2_0_3600_3000 nd_2_0_3600_5000 0.016324
rd_2_1_0_4_2 nd_2_0_3600_5000 nd_2_0_3600_7000 0.016324
rd_2_1_0_4_3 nd_2_0_3600_7000 nd_2_0_3600_9000 0.016324
rd_2_1_0_5_0 nd_2_0_4400_1000 nd_2_0_4400_3000 0.016324
rd_2_1_0_5_1 nd_2_0_4400_3000 nd_2_0_4400_5000 0.016324
rd_2_1_0_5_2 nd_2_0_4400_5000 nd_2_0_4400_7000 0.016324
rd_2_1_0_5_3 nd_2_0_4400_7000 nd_2_0_4400_9000 0.016324
rd_2_1_0_6_0 nd_2_0_5200_1000 nd_2_0_5200_3000 0.016324
rd_2_1_0_6_1 nd_2_0_5200_3000 nd_2_0_5200_5000 0.016324
rd_2_1_0_6_2 nd_2_0_5200_5000 nd_2_0_5200_7000 0.016324
rd_2_1_0_6_3 nd_2_0_5200_7000 nd_2_0_5200_9000 0.016324
rd_2_1_0_7_0 nd_2_0_6000_1000 nd_2_0_6000_3000 0.016324
rd_2_1_0_7_1 nd_2_0_6000_3000 nd_2_0_6000_5000 0.016324
rd_2_1_0_7_2 nd_2_0_6000_5000 nd_2_0_6000_7000 0.016324
rd_2_1_0_7_3 nd_2_0_6000_7000 nd_2_0_6000_9000 0.016324
rd_2_1_0_8_0 nd_2_0_6800_1000 nd_2_0_6800_3000 0.016324
rd_2_1_0_8_1 nd_2_0_6800_3000 nd_2_0_6800_5000 0.016324
rd_2_1_0_8_2 nd_2_0_6800_5000 nd_2_0_6800_7000 0.016324
rd_2_1_0_8_3 nd_2_0_6800_7000 nd_2_0_6800_9000 0.016324
rd_2_1_0_9_0 nd_2_0_7600_1000 nd_2_0_7600_3000 0.016324
rd_2_1_0_9_1 nd_2_0_7600_3000 nd_2_0_7600_5000 0.016324
rd_2_1_0_9_2 nd_2_0_7600_5000 nd_2_0_7600_7000 0.016324
rd_2_1_0_9_3 nd_2_0_7600_7000 nd_2_0_7600_9000 0.016324
rd_2_1_0_10_0 nd_2_0_8400_1000 nd_2_0_8400_3000 0.016324
rd_2_1_0_10_1 nd_2_0_8400_3000 nd_2_0_8400_5000 0.016324
rd_2_1_0_10_2 nd_2_0_8400_5000 nd_2_0_8400_7000 0.016324
rd_2_1_0_10_3 nd_2_0_8400_7000 nd_2_0_8400_9000 0.016324
rd_2_1_0_11_0 nd_2_0_9200_1000 nd_2_0_9200_3000 0.016324
rd_2_1_0_11_1 nd_2_0_9200_3000 nd_2_0_9200_5000 0.016324
rd_2_1_0_11_2 nd_2_0_9200_5000 nd_2_0_9200_7000 0.016324
rd_2_1_0_11_3 nd_2_0_9200_7000 nd_2_0_9200_9000 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_399_1000 nd_2_0_399_1000 0.005
rvd_1_0_0_1 nd_1_0_1200_1000 nd_2_0_1200_1000 0.005
rvd_1_0_0_2 nd_1_0_2000_1000 nd_2_0_2000_1000 0.005
rvd_1_0_0_3 nd_1_0_2800_1000 nd_2_0_2800_1000 0.005
rvd_1_0_0_4 nd_1_0_3600_1000 nd_2_0_3600_1000 0.005
rvd_1_0_0_5 nd_1_0_4400_1000 nd_2_0_4400_1000 0.005
rvd_1_0_0_6 nd_1_0_5200_1000 nd_2_0_5200_1000 0.005
rvd_1_0_0_7 nd_1_0_6000_1000 nd_2_0_6000_1000 0.005
rvd_1_0_0_8 nd_1_0_6800_1000 nd_2_0_6800_1000 0.005
rvd_1_0_0_9 nd_1_0_7600_1000 nd_2_0_7600_1000 0.005
rvd_1_0_0_10 nd_1_0_8400_1000 nd_2_0_8400_1000 0.005
rvd_1_0_0_11 nd_1_0_9200_1000 nd_2_0_9200_1000 0.005
rvd_1_0_1_0 nd_1_0_399_3000 nd_2_0_399_3000 0.005
rvd_1_0_1_1 nd_1_0_1200_3000 nd_2_0_1200_3000 0.005
rvd_1_0_1_2 nd_1_0_2000_3000 nd_2_0_2000_3000 0.005
rvd_1_0_1_3 nd_1_0_2800_3000 nd_2_0_2800_3000 0.005
rvd_1_0_1_4 nd_1_0_3600_3000 nd_2_0_3600_3000 0.005
rvd_1_0_1_5 nd_1_0_4400_3000 nd_2_0_4400_3000 0.005
rvd_1_0_1_6 nd_1_0_5200_3000 nd_2_0_5200_3000 0.005
rvd_1_0_1_7 nd_1_0_6000_3000 nd_2_0_6000_3000 0.005
rvd_1_0_1_8 nd_1_0_6800_3000 nd_2_0_6800_3000 0.005
rvd_1_0_1_9 nd_1_0_7600_3000 nd_2_0_7600_3000 0.005
rvd_1_0_1_10 nd_1_0_8400_3000 nd_2_0_8400_3000 0.005
rvd_1_0_1_11 nd_1_0_9200_3000 nd_2_0_9200_3000 0.005
rvd_1_0_2_0 nd_1_0_399_5000 nd_2_0_399_5000 0.005
rvd_1_0_2_1 nd_1_0_1200_5000 nd_2_0_1200_5000 0.005
rvd_1_0_2_2 nd_1_0_2000_5000 nd_2_0_2000_5000 0.005
rvd_1_0_2_3 nd_1_0_2800_5000 nd_2_0_2800_5000 0.005
rvd_1_0_2_4 nd_1_0_3600_5000 nd_2_0_3600_5000 0.005
rvd_1_0_2_5 nd_1_0_4400_5000 nd_2_0_4400_5000 0.005
rvd_1_0_2_6 nd_1_0_5200_5000 nd_2_0_5200_5000 0.005
rvd_1_0_2_7 nd_1_0_6000_5000 nd_2_0_6000_5000 0.005
rvd_1_0_2_8 nd_1_0_6800_5000 nd_2_0_6800_5000 0.005
rvd_1_0_2_9 nd_1_0_7600_5000 nd_2_0_7600_5000 0.005
rvd_1_0_2_10 nd_1_0_8400_5000 nd_2_0_8400_5000 0.005
rvd_1_0_2_11 nd_1_0_9200_5000 nd_2_0_9200_5000 0.005
rvd_1_0_3_0 nd_1_0_399_7000 nd_2_0_399_7000 0.005
rvd_1_0_3_1 nd_1_0_1200_7000 nd_2_0_1200_7000 0.005
rvd_1_0_3_2 nd_1_0_2000_7000 nd_2_0_2000_7000 0.005
rvd_1_0_3_3 nd_1_0_2800_7000 nd_2_0_2800_7000 0.005
rvd_1_0_3_4 nd_1_0_3600_7000 nd_2_0_3600_7000 0.005
rvd_1_0_3_5 nd_1_0_4400_7000 nd_2_0_4400_7000 0.005
rvd_1_0_3_6 nd_1_0_5200_7000 nd_2_0_5200_7000 0.005
rvd_1_0_3_7 nd_1_0_6000_7000 nd_2_0_6000_7000 0.005
rvd_1_0_3_8 nd_1_0_6800_7000 nd_2_0_6800_7000 0.005
rvd_1_0_3_9 nd_1_0_7600_7000 nd_2_0_7600_7000 0.005
rvd_1_0_3_10 nd_1_0_8400_7000 nd_2_0_8400_7000 0.005
rvd_1_0_3_11 nd_1_0_9200_7000 nd_2_0_9200_7000 0.005
rvd_1_0_4_0 nd_1_0_399_9000 nd_2_0_399_9000 0.005
rvd_1_0_4_1 nd_1_0_1200_9000 nd_2_0_1200_9000 0.005
rvd_1_0_4_2 nd_1_0_2000_9000 nd_2_0_2000_9000 0.005
rvd_1_0_4_3 nd_1_0_2800_9000 nd_2_0_2800_9000 0.005
rvd_1_0_4_4 nd_1_0_3600_9000 nd_2_0_3600_9000 0.005
rvd_1_0_4_5 nd_1_0_4400_9000 nd_2_0_4400_9000 0.005
rvd_1_0_4_6 nd_1_0_5200_9000 nd_2_0_5200_9000 0.005
rvd_1_0_4_7 nd_1_0_6000_9000 nd_2_0_6000_9000 0.005
rvd_1_0_4_8 nd_1_0_6800_9000 nd_2_0_6800_9000 0.005
rvd_1_0_4_9 nd_1_0_7600_9000 nd_2_0_7600_9000 0.005
rvd_1_0_4_10 nd_1_0_8400_9000 nd_2_0_8400_9000 0.005
rvd_1_0_4_11 nd_1_0_9200_9000 nd_2_0_9200_9000 0.005
*-- via layer 1-2: net: 0 VSS net
rdload_0_0_0_0 nd_1_0_399_1000 0 49.5065
rdesr_0_0_0_0 nd_1_0_399_1000 nd_1_0_399_1000_ci 49.5065
cd_0_0_0_0 nd_1_0_399_1000_ci 0 4.03987e-11
rdload_0_0_0_1 nd_1_0_1200_1000 0 58.4088
rdesr_0_0_0_1 nd_1_0_1200_1000 nd_1_0_1200_1000_ci 58.4088
cd_0_0_0_1 nd_1_0_1200_1000_ci 0 3.42414e-11
rdload_0_0_0_2 nd_1_0_2000_1000 0 90.9771
rdesr_0_0_0_2 nd_1_0_2000_1000 nd_1_0_2000_1000_ci 90.9771
cd_0_0_0_2 nd_1_0_2000_1000_ci 0 2.19836e-11
rdload_0_0_0_3 nd_1_0_2800_1000 0 53.1638
rdesr_0_0_0_3 nd_1_0_2800_1000 nd_1_0_2800_1000_ci 53.1638
cd_0_0_0_3 nd_1_0_2800_1000_ci 0 3.76196e-11
rdload_0_0_0_4 nd_1_0_3600_1000 0 63.5897
rdesr_0_0_0_4 nd_1_0_3600_1000 nd_1_0_3600_1000_ci 63.5897
cd_0_0_0_4 nd_1_0_3600_1000_ci 0 3.14517e-11
rdload_0_0_0_5 nd_1_0_4400_1000 0 78.8968
rdesr_0_0_0_5 nd_1_0_4400_1000 nd_1_0_4400_1000_ci 78.8968
cd_0_0_0_5 nd_1_0_4400_1000_ci 0 2.53496e-11
rdload_0_0_0_6 nd_1_0_5200_1000 0 57.6683
rdesr_0_0_0_6 nd_1_0_5200_1000 nd_1_0_5200_1000_ci 57.6683
cd_0_0_0_6 nd_1_0_5200_1000_ci 0 3.46811e-11
rdload_0_0_0_7 nd_1_0_6000_1000 0 285.276
rdesr_0_0_0_7 nd_1_0_6000_1000 nd_1_0_6000_1000_ci 285.276
cd_0_0_0_7 nd_1_0_6000_1000_ci 0 7.01075e-12
rdload_0_0_0_8 nd_1_0_6800_1000 0 2498.21
rdesr_0_0_0_8 nd_1_0_6800_1000 nd_1_0_6800_1000_ci 2498.21
cd_0_0_0_8 nd_1_0_6800_1000_ci 0 8.00572e-13
rdload_0_0_0_9 nd_1_0_7600_1000 0 122.195
rdesr_0_0_0_9 nd_1_0_7600_1000 nd_1_0_7600_1000_ci 122.195
cd_0_0_0_9 nd_1_0_7600_1000_ci 0 1.63672e-11
rdload_0_0_0_10 nd_1_0_8400_1000 0 77.5327
rdesr_0_0_0_10 nd_1_0_8400_1000 nd_1_0_8400_1000_ci 77.5327
cd_0_0_0_10 nd_1_0_8400_1000_ci 0 2.57956e-11
rdload_0_0_0_11 nd_1_0_9200_1000 0 48.4776
rdesr_0_0_0_11 nd_1_0_9200_1000 nd_1_0_9200_1000_ci 48.4776
cd_0_0_0_11 nd_1_0_9200_1000_ci 0 4.12561e-11
rdload_0_0_0_12 nd_1_0_399_3000 0 56.943
rdesr_0_0_0_12 nd_1_0_399_3000 nd_1_0_399_3000_ci 56.943
cd_0_0_0_12 nd_1_0_399_3000_ci 0 3.51228e-11
rdload_0_0_0_13 nd_1_0_1200_3000 0 87.3871
rdesr_0_0_0_13 nd_1_0_1200_3000 nd_1_0_1200_3000_ci 87.3871
cd_0_0_0_13 nd_1_0_1200_3000_ci 0 2.28867e-11
rdload_0_0_0_14 nd_1_0_2000_3000 0 52.3011
rdesr_0_0_0_14 nd_1_0_2000_3000 nd_1_0_2000_3000_ci 52.3011
cd_0_0_0_14 nd_1_0_2000_3000_ci 0 3.82401e-11
rdload_0_0_0_15 nd_1_0_2800_3000 0 62.3377
rdesr_0_0_0_15 nd_1_0_2800_3000 nd_1_0_2800_3000_ci 62.3377
cd_0_0_0_15 nd_1_0_2800_3000_ci 0 3.20833e-11
rdload_0_0_0_16 nd_1_0_3600_3000 0 76.4584
rdesr_0_0_0_16 nd_1_0_3600_3000 nd_1_0_3600_3000_ci 76.4584
cd_0_0_0_16 nd_1_0_3600_3000_ci 0 2.6158e-11
rdload_0_0_0_17 nd_1_0_4400_3000 0 56.5382
rdesr_0_0_0_17 nd_1_0_4400_3000 nd_1_0_4400_3000_ci 56.5382
cd_0_0_0_17 nd_1_0_4400_3000_ci 0 3.53743e-11
rdload_0_0_0_18 nd_1_0_5200_3000 0 68.2071
rdesr_0_0_0_18 nd_1_0_5200_3000 nd_1_0_5200_3000_ci 68.2071
cd_0_0_0_18 nd_1_0_5200_3000_ci 0 2.93225e-11
rdload_0_0_0_19 nd_1_0_6000_3000 0 85.7779
rdesr_0_0_0_19 nd_1_0_6000_3000 nd_1_0_6000_3000_ci 85.7779
cd_0_0_0_19 nd_1_0_6000_3000_ci 0 2.3316e-11
rdload_0_0_0_20 nd_1_0_6800_3000 0 116.659
rdesr_0_0_0_20 nd_1_0_6800_3000 nd_1_0_6800_3000_ci 116.659
cd_0_0_0_20 nd_1_0_6800_3000_ci 0 1.7144e-11
rdload_0_0_0_21 nd_1_0_7600_3000 0 75.8893
rdesr_0_0_0_21 nd_1_0_7600_3000 nd_1_0_7600_3000_ci 75.8893
cd_0_0_0_21 nd_1_0_7600_3000_ci 0 2.63542e-11
rdload_0_0_0_22 nd_1_0_8400_3000 0 99.1448
rdesr_0_0_0_22 nd_1_0_8400_3000 nd_1_0_8400_3000_ci 99.1448
cd_0_0_0_22 nd_1_0_8400_3000_ci 0 2.01725e-11
rdload_0_0_0_23 nd_1_0_9200_3000 0 140.475
rdesr_0_0_0_23 nd_1_0_9200_3000 nd_1_0_9200_3000_ci 140.475
cd_0_0_0_23 nd_1_0_9200_3000_ci 0 1.42374e-11
rdload_0_0_0_24 nd_1_0_399_5000 0 247.292
rdesr_0_0_0_24 nd_1_0_399_5000 nd_1_0_399_5000_ci 247.292
cd_0_0_0_24 nd_1_0_399_5000_ci 0 8.0876e-12
rdload_0_0_0_25 nd_1_0_1200_5000 0 51.1832
rdesr_0_0_0_25 nd_1_0_1200_5000 nd_1_0_1200_5000_ci 51.1832
cd_0_0_0_25 nd_1_0_1200_5000_ci 0 3.90753e-11
rdload_0_0_0_26 nd_1_0_2000_5000 0 60.6857
rdesr_0_0_0_26 nd_1_0_2000_5000 nd_1_0_2000_5000_ci 60.6857
cd_0_0_0_26 nd_1_0_2000_5000_ci 0 3.29567e-11
rdload_0_0_0_27 nd_1_0_2800_5000 0 74.196
rdesr_0_0_0_27 nd_1_0_2800_5000 nd_1_0_2800_5000_ci 74.196
cd_0_0_0_27 nd_1_0_2800_5000_ci 0 2.69556e-11
rdload_0_0_0_28 nd_1_0_3600_5000 0 96.8512
rdesr_0_0_0_28 nd_1_0_3600_5000 nd_1_0_3600_5000_ci 96.8512
cd_0_0_0_28 nd_1_0_3600_5000_ci 0 2.06502e-11
rdload_0_0_0_29 nd_1_0_4400_5000 0 66.6581
rdesr_0_0_0_29 nd_1_0_4400_5000 nd_1_0_4400_5000_ci 66.6581
cd_0_0_0_29 nd_1_0_4400_5000_ci 0 3.00039e-11
rdload_0_0_0_30 nd_1_0_5200_5000 0 847.728
rdesr_0_0_0_30 nd_1_0_5200_5000 nd_1_0_5200_5000_ci 847.728
cd_0_0_0_30 nd_1_0_5200_5000_ci 0 2.35925e-12
rdload_0_0_0_31 nd_1_0_6000_5000 0 50.815
rdesr_0_0_0_31 nd_1_0_6000_5000 nd_1_0_6000_5000_ci 50.815
cd_0_0_0_31 nd_1_0_6000_5000_ci 0 3.93584e-11
rdload_0_0_0_32 nd_1_0_6800_5000 0 73.8141
rdesr_0_0_0_32 nd_1_0_6800_5000 nd_1_0_6800_5000_ci 73.8141
cd_0_0_0_32 nd_1_0_6800_5000_ci 0 2.70951e-11
rdload_0_0_0_33 nd_1_0_7600_5000 0 46.6889
rdesr_0_0_0_33 nd_1_0_7600_5000 nd_1_0_7600_5000_ci 46.6889
cd_0_0_0_33 nd_1_0_7600_5000_ci 0 4.28367e-11
rdload_0_0_0_34 nd_1_0_8400_5000 0 54.2848
rdesr_0_0_0_34 nd_1_0_8400_5000 nd_1_0_8400_5000_ci 54.2848
cd_0_0_0_34 nd_1_0_8400_5000_ci 0 3.68427e-11
rdload_0_0_0_35 nd_1_0_9200_5000 0 65.7755
rdesr_0_0_0_35 nd_1_0_9200_5000 nd_1_0_9200_5000_ci 65.7755
cd_0_0_0_35 nd_1_0_9200_5000_ci 0 3.04065e-11
rdload_0_0_0_36 nd_1_0_399_7000 0 50.0926
rdesr_0_0_0_36 nd_1_0_399_7000 nd_1_0_399_7000_ci 50.0926
cd_0_0_0_36 nd_1_0_399_7000_ci 0 3.99261e-11
rdload_0_0_0_37 nd_1_0_1200_7000 0 165.527
rdesr_0_0_0_37 nd_1_0_1200_7000 nd_1_0_1200_7000_ci 165.527
cd_0_0_0_37 nd_1_0_1200_7000_ci 0 1.20826e-11
rdload_0_0_0_38 nd_1_0_2000_7000 0 336.659
rdesr_0_0_0_38 nd_1_0_2000_7000 nd_1_0_2000_7000_ci 336.659
cd_0_0_0_38 nd_1_0_2000_7000_ci 0 5.94073e-12
rdload_0_0_0_39 nd_1_0_2800_7000 0 46.209
rdesr_0_0_0_39 nd_1_0_2800_7000 nd_1_0_2800_7000_ci 46.209
cd_0_0_0_39 nd_1_0_2800_7000_ci 0 4.32817e-11
rdload_0_0_0_40 nd_1_0_3600_7000 0 64.7392
rdesr_0_0_0_40 nd_1_0_3600_7000 nd_1_0_3600_7000_ci 64.7392
cd_0_0_0_40 nd_1_0_3600_7000_ci 0 3.08932e-11
rdload_0_0_0_41 nd_1_0_4400_7000 0 686.042
rdesr_0_0_0_41 nd_1_0_4400_7000 nd_1_0_4400_7000_ci 686.042
cd_0_0_0_41 nd_1_0_4400_7000_ci 0 2.91527e-12
rdload_0_0_0_42 nd_1_0_5200_7000 0 49.8048
rdesr_0_0_0_42 nd_1_0_5200_7000 nd_1_0_5200_7000_ci 49.8048
cd_0_0_0_42 nd_1_0_5200_7000_ci 0 4.01568e-11
rdload_0_0_0_43 nd_1_0_6000_7000 0 58.8387
rdesr_0_0_0_43 nd_1_0_6000_7000 nd_1_0_6000_7000_ci 58.8387
cd_0_0_0_43 nd_1_0_6000_7000_ci 0 3.39912e-11
rdload_0_0_0_44 nd_1_0_6800_7000 0 213200
rdesr_0_0_0_44 nd_1_0_6800_7000 nd_1_0_6800_7000_ci 213200
cd_0_0_0_44 nd_1_0_6800_7000_ci 0 9.38086e-15
rdload_0_0_0_45 nd_1_0_7600_7000 0 126.868
rdesr_0_0_0_45 nd_1_0_7600_7000 nd_1_0_7600_7000_ci 126.868
cd_0_0_0_45 nd_1_0_7600_7000_ci 0 1.57644e-11
rdload_0_0_0_46 nd_1_0_8400_7000 0 63.9947
rdesr_0_0_0_46 nd_1_0_8400_7000 nd_1_0_8400_7000_ci 63.9947
cd_0_0_0_46 nd_1_0_8400_7000_ci 0 3.12526e-11
rdload_0_0_0_47 nd_1_0_9200_7000 0 577.793
rdesr_0_0_0_47 nd_1_0_9200_7000 nd_1_0_9200_7000_ci 577.793
cd_0_0_0_47 nd_1_0_9200_7000_ci 0 3.46145e-12
rdload_0_0_0_48 nd_1_0_399_9000 0 58.0017
rdesr_0_0_0_48 nd_1_0_399_9000 nd_1_0_399_9000_ci 58.0017
cd_0_0_0_48 nd_1_0_399_9000_ci 0 3.44818e-11
rdload_0_0_0_49 nd_1_0_1200_9000 0 294.654
rdesr_0_0_0_49 nd_1_0_1200_9000 nd_1_0_1200_9000_ci 294.654
cd_0_0_0_49 nd_1_0_1200_9000_ci 0 6.78762e-12
rdload_0_0_0_50 nd_1_0_2000_9000 0 4968.14
rdesr_0_0_0_50 nd_1_0_2000_9000 nd_1_0_2000_9000_ci 4968.14
cd_0_0_0_50 nd_1_0_2000_9000_ci 0 4.02565e-13
rdload_0_0_0_51 nd_1_0_2800_9000 0 53.1431
rdesr_0_0_0_51 nd_1_0_2800_9000 nd_1_0_2800_9000_ci 53.1431
cd_0_0_0_51 nd_1_0_2800_9000_ci 0 3.76342e-11
rdload_0_0_0_52 nd_1_0_3600_9000 0 525.265
rdesr_0_0_0_52 nd_1_0_3600_9000 nd_1_0_3600_9000_ci 525.265
cd_0_0_0_52 nd_1_0_3600_9000_ci 0 3.80761e-12
rdload_0_0_0_53 nd_1_0_4400_9000 0 103.087
rdesr_0_0_0_53 nd_1_0_4400_9000 nd_1_0_4400_9000_ci 103.087
cd_0_0_0_53 nd_1_0_4400_9000_ci 0 1.94011e-11
rdload_0_0_0_54 nd_1_0_5200_9000 0 151.402
rdesr_0_0_0_54 nd_1_0_5200_9000 nd_1_0_5200_9000_ci 151.402
cd_0_0_0_54 nd_1_0_5200_9000_ci 0 1.32099e-11
rdload_0_0_0_55 nd_1_0_6000_9000 0 1968.86
rdesr_0_0_0_55 nd_1_0_6000_9000 nd_1_0_6000_9000_ci 1968.86
cd_0_0_0_55 nd_1_0_6000_9000_ci 0 1.01582e-12
rdload_0_0_0_56 nd_1_0_6800_9000 0 52.5775
rdesr_0_0_0_56 nd_1_0_6800_9000 nd_1_0_6800_9000_ci 52.5775
cd_0_0_0_56 nd_1_0_6800_9000_ci 0 3.80391e-11
rdload_0_0_0_57 nd_1_0_7600_9000 0 62.5403
rdesr_0_0_0_57 nd_1_0_7600_9000 nd_1_0_7600_9000_ci 62.5403
cd_0_0_0_57 nd_1_0_7600_9000_ci 0 3.19794e-11
rdload_0_0_0_58 nd_1_0_8400_9000 0 77.5117
rdesr_0_0_0_58 nd_1_0_8400_9000 nd_1_0_8400_9000_ci 77.5117
cd_0_0_0_58 nd_1_0_8400_9000_ci 0 2.58025e-11
rdload_0_0_0_59 nd_1_0_9200_9000 0 56.7392
rdesr_0_0_0_59 nd_1_0_9200_9000 nd_1_0_9200_9000_ci 56.7392
cd_0_0_0_59 nd_1_0_9200_9000_ci 0 3.5249e-11

*-- intentional decap
cd_add_cap0 nd_1_0_1200_3000 nd0 'dcap_int_val142'
cd_add_cap1 nd_1_0_2800_3000 nd1 'dcap_int_val143'
cd_add_cap2 nd_1_0_4400_3000 nd2 'dcap_int_val144'
cd_add_cap3 nd_1_0_6000_3000 nd3 'dcap_int_val145'
cd_add_cap4 nd_1_0_8400_3000 nd4 'dcap_int_val146'
cd_add_cap5 nd_1_0_1200_7000 nd5 'dcap_int_val147'
cd_add_cap6 nd_1_0_2800_7000 nd6 'dcap_int_val148'
cd_add_cap7 nd_1_0_4400_7000 nd7 'dcap_int_val149'
cd_add_cap8 nd_1_0_6000_7000 nd8 'dcap_int_val150'
cd_add_cap9 nd_1_0_8400_7000 nd9 'dcap_int_val151'
rd_add0 nd0 0 'esr21'
rd_add1 nd1 0 'esr22'
rd_add2 nd2 0 'esr23'
rd_add3 nd3 0 'esr24'
rd_add4 nd4 0 'esr25'
rd_add5 nd5 0 'esr26'
rd_add6 nd6 0 'esr27'
rd_add7 nd7 0 'esr28'
rd_add8 nd8 0 'esr29'
rd_add9 nd9 0 'esr30'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_4_1 nd_pad_port_4_1 nd_pad_4_1 ubump_subckt
xd_pad_4_3 nd_pad_port_4_3 nd_pad_4_3 ubump_subckt
xd_pad_5_0 nd_pad_port_5_0 nd_pad_5_0 ubump_subckt
xd_pad_5_2 nd_pad_port_5_2 nd_pad_5_2 ubump_subckt
xd_pad_6_1 nd_pad_port_6_1 nd_pad_6_1 ubump_subckt
xd_pad_6_3 nd_pad_port_6_3 nd_pad_6_3 ubump_subckt
xd_pad_7_0 nd_pad_port_7_0 nd_pad_7_0 ubump_subckt
xd_pad_7_2 nd_pad_port_7_2 nd_pad_7_2 ubump_subckt
xd_pad_8_1 nd_pad_port_8_1 nd_pad_8_1 ubump_subckt
xd_pad_8_3 nd_pad_port_8_3 nd_pad_8_3 ubump_subckt
xd_pad_9_0 nd_pad_port_9_0 nd_pad_9_0 ubump_subckt
xd_pad_9_2 nd_pad_port_9_2 nd_pad_9_2 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1200_3000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1200_7000  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_2000_1000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_2000_5000  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_2800_3000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_2800_7000  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_3600_1000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_3600_5000  0.001
rd_pad2via_4_1 nd_pad_4_1 nd_2_0_4400_3000  0.001
rd_pad2via_4_3 nd_pad_4_3 nd_2_0_4400_7000  0.001
rd_pad2via_5_0 nd_pad_5_0 nd_2_0_5200_1000  0.001
rd_pad2via_5_2 nd_pad_5_2 nd_2_0_5200_5000  0.001
rd_pad2via_6_1 nd_pad_6_1 nd_2_0_6000_3000  0.001
rd_pad2via_6_3 nd_pad_6_3 nd_2_0_6000_7000  0.001
rd_pad2via_7_0 nd_pad_7_0 nd_2_0_7600_1000  0.001
rd_pad2via_7_2 nd_pad_7_2 nd_2_0_7600_5000  0.001
rd_pad2via_8_1 nd_pad_8_1 nd_2_0_8400_3000  0.001
rd_pad2via_8_3 nd_pad_8_3 nd_2_0_8400_7000  0.001
rd_pad2via_9_0 nd_pad_9_0 nd_2_0_9200_1000  0.001
rd_pad2via_9_2 nd_pad_9_2 nd_2_0_9200_5000  0.001

.ends chiplet3
